US04192890
A mixture of 28 g of 3-p-chlorobenzoyl-2-methyl-benzonitrile, 210 cc of glacial acetic acid, 210 cc of water and 210 cc of concentrated sulfuric acid was refluxed overnight and after cooling to 80° C., the reaction mixture was added to a water-ice mixture. The mixture was vacuum filtered and the resulting precipitate was washed with water until the wash waters were neutral and then dried under reduced pressure to obtain 29.9 g of 3-p-chlorobenzoyl-2-methyl-benzoic acid melting at 205° C. The product was soluble in ethanol and chloroform and slightly soluble in ethyl ether. After crystallization from methanol for analysis, the product melted at 206° C.

reactant | 3-p-chlorobenzoyl-2-methyl-benzonitrile | 28 g | ClC1=CC=C(C(=O)C=2C(=C(C#N)C=CC2)C)C=C1 | C15H10ClNO
reactant | acetic acid | 210 cc | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 210 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 210 cc | O | H2O
product | 3-p-chlorobenzoyl-2-methyl-benzoic acid | 29.9 g | ClC1=CC=C(C(=O)C=2C(=C(C(=O)O)C=CC2)C)C=C1 | C15H11ClO3
